US07855201B2
Step 2: methyl 4-methoxypyrimidine-5-carboxylate
A mixture of 2.2 g of methyl 4-methoxy-2-(methylthio)pyrimidine-5-carboxylate, 15 g of Raney nickel (washed with methanol to remove water) and 200 mL of methanol was stirred under 1 atm hydrogen overnight. Conversion was incomplete by LCMS so the mixture was filtered and treated with 15 g of fresh Raney nickel under hydrogen overnight. After filtration and concentration under reduced pressure, purification by flash chromatography (0%-10% ethyl acetate in hexanes) gave the product as white crystalline solid: MS (m+1)=169.1; 1H NMR (400 MHz, CDCl3) 9.0 (s, 1H), 8.82 (s, 1H), 4.1 (s, 3H), 3.9 (s, 3H).

reactant | methyl 4-methoxy-2-(methylthio)pyrimidine-5-carboxylate | 2.2 g | COC1=NC(=NC=C1C(=O)OC)SC | C8H10N2O3S
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 15 g | [Ni] | Ni
solvent | methanol | 200 mL | CO | CH4O
product | methyl 4-methoxypyrimidine-5-carboxylate | COC1=NC=NC=C1C(=O)OC | C7H8N2O3
